US06110924
d) Preparation of 5-bromo-5-naphtylbarbituric acid
A suspension of 5-naphtylbarbituric acid (0.2 g) in 1.5 ml of 95% ethanol, cooled at 0° C. and kept under stirring, is added dropwise with 48% hydrobromic acid (0.5 ml) and successively with 4.4 μl of bromine. After 4 hours under stirring at room temperature the solid is filtered and washed with water, then it is dried under vacuum at 40° C. overnight. 0.25 g of the product are obtained.

reactant | 5-naphtylbarbituric acid | 0.2 g | C1(=CC=CC2=CC=CC=C12)C1C(NC(NC1=O)=O)=O | C14H10N2O3
reactant | hydrobromic acid | 0.5 ml | Br | BrH
reactant | bromine | 4.4 μl | BrBr | Br2
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
product | 5-bromo-5-naphtylbarbituric acid | 0.25 g | BrC1(C(NC(NC1=O)=O)=O)C1=CC=CC2=CC=CC=C12 | C14H9BrN2O3
